US08202873B2
1-(1-Methyl-1H-imidazol-4-yl)-1H-pyrazole-4-carbaldehyde
In an oven-dried flask, combine 4-bromo-1-methyl-1H-imidazole (0.200 g, 1.24 mmol), copper (I) iodide (0.022 g, 0.113 mmol), N,N-dimethylglycine (0.023 g, 0.226 mmol), and potassium carbonate (0.312 g, 2.26 mmol). Purge with nitrogen 3 times. Add 1-H-pyrazole-4-carboxaldehyde (0.109 g, 1.13 mmol), and DMSO (1.7 mL). Heat to 110° C. for 48 hr. Cool to ambient temperature and partition between ethyl acetate and water. Separate organic layer and extract aqueous layer twice with ethyl acetate. Dry combined organic layers (magnesium sulfate), filter and concentrate. Add copper (I) iodide (0.022 g, 0.113 mmol), N,N-dimethylglycine (0.023 g, 0.226 mmol), potassium carbonate (0.312 g, 2.26 mmol), and DMSO (1.7 mL). Purge with nitrogen 3 times. Heat to 110° C. for 18 hr. Cool to ambient temperature and partition between ethyl acetate and water. Separate organic layer and extract aqueous layer twice with ethyl acetate. Dry combined organic layers (magnesium sulfate), filter, concentrate, and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes) to give the title preparation (39 mg, 20%). GC-MS: m/z=176 [M+].

reactant | 4-bromo-1-methyl-1H-imidazole | 1.24 mmol, 0.200 g | BrC=1N=CN(C1)C | C4H5BrN2
reactant | N,N-dimethylglycine | 0.226 mmol, 0.023 g | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 2.26 mmol, 0.312 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-H-pyrazole-4-carboxaldehyde | 1.13 mmol, 0.109 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | N,N-dimethylglycine | 0.226 mmol, 0.023 g | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 2.26 mmol, 0.312 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) iodide | 0.113 mmol, 0.022 g | [Cu]I
catalyst | copper (I) iodide | 0.113 mmol, 0.022 g | [Cu]I
solvent | DMSO | 1.7 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1.7 mL | CS(=O)C | C2H6OS
product | 1-(1-Methyl-1H-imidazol-4-yl)-1H-pyrazole-4-carbaldehyde | CN1C=NC(=C1)N1N=CC(=C1)C=O | C8H8N4O
